US09193697B2
Step A6.2-2: tert-butyl 4-{5-bromo-4-[4-(methylsulfanyl)phenyl]-1,3-oxazol-2-yl}piperidine-1-carboxylate
tert-butyl 4-{4-[4-(methylsulfanyl)phenyl]-1,3-oxazol-2-yl}piperidine-1-carboxylate (585 mg, 1.56 mmol) was dissolved in dichloromethane (15.6 mL) under argon atmosphere. N-bromosuccinimide (306 mg, 1.72 mmol) was added portionwise as a solid to the stifling solution. The resulting solution stirred at 25° C. for 6 hours. The solution was then diluted with chloroform and washed with aqueous sodium bisulfite. The organics were dried over sodium sulfate and concentrated in vacuo to yield 680 mg of the desired product as yellow oil. LCMS (M+1)=453.40

reactant | tert-butyl 4-{4-[4-(methylsulfanyl)phenyl]-1,3-oxazol-2-yl}piperidine-1-carboxylate | 1.56 mmol, 585 mg | CSC1=CC=C(C=C1)C=1N=C(OC1)C1CCN(CC1)C(=O)OC(C)(C)C | C20H26N2O3S
reactant | N-bromosuccinimide | 1.72 mmol, 306 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
solvent | dichloromethane | 15.6 mL | ClCCl | CH2Cl2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | tert-butyl 4-{5-bromo-4-[4-(methylsulfanyl)phenyl]-1,3-oxazol-2-yl}piperidine-1-carboxylate | 680 mg | BrC1=C(N=C(O1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)SC | C20H25BrN2O3S
